US07183445B2
To the solution of 2,3-di(4-methoxyphenyl)-1,3-butadiene (2.1 g) in toluene (30 mL) was added maleic anhydride (3.8 g, 5.0 eq.) and the reaction mixture refluxed for 6 h. The reaction mixture was then diluted with ethyl acetate (500 mL) and was washed with water (3×200 mL). The organic layer was dried and concentrated to yield 5,6-bis-(4-methoxy-phenyl)-3a,4,7,7a-tetrahydro-isobenzofuran-1,3-dione.

reactant | 2,3-di(4-methoxyphenyl)-1,3-butadiene | 2.1 g | COC1=CC=C(C=C1)C(=C)C(=C)C1=CC=C(C=C1)OC | C18H18O2
reactant | maleic anhydride | 3.8 g, 5.0 eq. | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 5,6-bis-(4-methoxy-phenyl)-3a,4,7,7a-tetrahydro-isobenzofuran-1,3-dione | COC1=CC=C(C=C1)C=1CC2C(OC(C2CC1C1=CC=C(C=C1)OC)=O)=O | C22H20O5
